* SPICE NETLIST
***************************************
.SUBCKT ANTENNA_ASAP7_75t_R VSS VDD A
M0 A 6 A VSS nmos_rvt L=20n W=81.0n nfin=3
M1 VDD 7 VDD VDD pmos_rvt L=20n W=81.0n nfin=3
.ENDS
***************************************
.SUBCKT DECAPx2_ASAP7_75t_R VSS VDD
MM2 net011 net012 VSS VSS nmos_rvt w=162.00n l=20n nfin=6
MM1 net012 net011 VDD VDD pmos_rvt w=162.00n l=20n nfin=6
.ENDS
***************************************
.SUBCKT INVx3_ASAP7_75t_R VSS VDD A Y
MM0 Y A VSS VSS nmos_rvt w=243.00n l=20n nfin=9
MM1 Y A VDD VDD pmos_rvt w=243.00n l=20n nfin=9
.ENDS
***************************************
.SUBCKT INVx8_ASAP7_75t_R VSS VDD A Y
MM0 Y A VSS VSS nmos_rvt w=648.00n l=20n nfin=24
MM1 Y A VDD VDD pmos_rvt w=648.00n l=20n nfin=24
.ENDS
***************************************
.SUBCKT INVx13_ASAP7_75t_R VSS VDD A Y
MM0 Y A VSS VSS nmos_rvt w=1.053u l=20n nfin=39
MM1 Y A VDD VDD pmos_rvt w=1.053u l=20n nfin=39
.ENDS
***************************************
.SUBCKT INVx1_ASAP7_75t_R VSS VDD A Y
MM0 Y A VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 Y A VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS
***************************************
.SUBCKT DECAPx4_ASAP7_75t_R VSS VDD
MM2 net011 net012 VSS VSS nmos_rvt w=324.00n l=20n nfin=12
MM1 net012 net011 VDD VDD pmos_rvt w=324.00n l=20n nfin=12
.ENDS
***************************************
.SUBCKT DECAPx1_ASAP7_75t_R VSS VDD
MM2 net5 net6 VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 net6 net5 VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS
***************************************
.SUBCKT IOCELLBUFANTENNAOUT VSS VDD in out w1 w3 w2
X45 VSS VDD out ANTENNA_ASAP7_75t_R
X46 VSS VDD out ANTENNA_ASAP7_75t_R
X47 VSS VDD DECAPx2_ASAP7_75t_R
X48 VSS VDD w1 w2 INVx3_ASAP7_75t_R
X49 VSS VDD w2 w3 INVx8_ASAP7_75t_R
X50 VSS VDD w3 out INVx13_ASAP7_75t_R
X51 VSS VDD in w1 INVx1_ASAP7_75t_R
X52 VSS VDD DECAPx4_ASAP7_75t_R
X53 VSS VDD DECAPx1_ASAP7_75t_R
.ENDS
***************************************
